US08791119B2
To a suspension of 0.50 g (0.53 mmol) of 6-cyano-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide is added 0.07 ml (0.6 mmol) of tert-butyl isocyanate. After reaction for 2 hours at room temperature, the solvent is evaporated off under reduced pressure and the solid residue is recrystallized from acetonitrile, to give 0.16 g of 6-cyano-7-(3-fluorophenyl)-N2-(tert-butyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a white powder after filtering off and drying under reduced pressure.

reactant | 6-cyano-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide | 0.53 mmol, 0.50 g | C(#N)C1=C(C(=C2N1CCNC2)C(=O)N)C2=CC(=CC=C2)F | C15H13FN4O
reactant | tert-butyl isocyanate | 0.6 mmol, 0.07 ml | C(C)(C)(C)N=C=O | C5H9NO
product | 6-cyano-7-(3-fluorophenyl)-N2-(tert-butyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 0.16 g | C(#N)C1=C(C(=C2N1CCN(C2)C(=O)NC(C)(C)C)C(=O)N)C2=CC(=CC=C2)F | C20H22FN5O2
